US07863291B2
To N-(6-bromopyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (291 mg, 0.86 mmol) in methanol (20 mL) was hydrogenated over 10% palladium on carbon (23 mg) in the Parr apparatus for 2 hours. The catalyst was removed by filtration and the filtrated concentrated in vacuo. The residue was purified by column chromatography (0.7% ammonium hydroxide/6.3% methanol/93% chloroform) to give racemic N-(pyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (41.3 mg, 0.16 mmol, 18.6 5 yield). 1H NMR (500 MHz, MeOD) δ ppm 8.13-8.33 (m, 1 H), 7.57-7.72 (m, 1 H), 6.83-7.04 (m, 2 H), 3.97 (d, J=10.07 Hz, 1 H), 3.66 (d, J=10.07 Hz, 1 H), 3.18-3.27 (m, 1 H), 3.03-3.14 (m, 1 H), 2.94 (t, J=7.63 Hz, 2 H), 2.70-2.90 (m, 2 H), 2.06-2.24 (m, 2 H), 1.57-1.87 (m, 3 H). MS (LC/MS) R.T.=1.76; [M+H]+=259.25.

reactant | N-(6-bromopyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.86 mmol, 291 mg | BrC1=CC=CC(=N1)NC=1OC2(CN3CCC2CC3)CN1 | C14H17BrN4O
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 23 mg | [Pd] | Pd
product | racemic N-(pyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.16 mmol, 41.3 mg | N1=C(C=CC=C1)NC=1OC2(CN3CCC2CC3)CN1 | C14H18N4O
